US04377522
A solution of 20 mg (0.04 mol) of benzyl [1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]-methylcarbamoyl]-1-methylethyl]carbamate in 0.5 ml of hydrogen bromide/glacial acetic acid (30 percent) is left to stand for 15 minutes, subsequently treated with a 10 percent sodium bicarbonate solution and extracted several times with methylene chloride. The organic phase is dried over sodium sulphate and concentrated, whereupon the residue is chromatographed on a pressure column containing 2 g of silica gel (particle size 0.04-0.06 mm) under 0.2-0.4 atmospheres of nitrogen with methylene chloride as the elution agent. By crystallisation from ether/petroleum ether there is obtained 5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-7-nitro-2H-1,4-benzodiazepin-2-one of melting point 127°-129°.

reactant | benzyl [1-[[2-(o-fluorobenzoyl)-4-nitrophenyl]-methylcarbamoyl]-1-methylethyl]carbamate | 0.04 mol, 20 mg | FC1=C(C(=O)C2=C(C=CC(=C2)[N+](=O)[O-])N(C(=O)C(C)(C)NC(OCC2=CC=CC=C2)=O)C)C=CC=C1 | C26H24FN3O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrogen bromide | 0.5 ml | Br | BrH
product | 5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)(C)C | C18H16FN3O3
